US07317012B2
14A. Preparation of methyl 2-cyclohexyl-2-oxoacetate
The title compound (1.1 g, 65%) as a colorless oil was prepared from cyclohexyl-magnesium bromide and methyl chlorooxoacetate by the procedures described in F. Babudri et al., Tetrahedron, 52 (42), pp. 13512-20 (1996).

reactant | cyclohexyl-magnesium bromide | C1(CCCCC1)[Mg]Br
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | methyl 2-cyclohexyl-2-oxoacetate | 1.1 g, 65% | C1(CCCCC1)C(C(=O)OC)=O | C9H14O3
